US08426404B2
Synthesis of N-{3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-ylamino]-4-methyl-phenyl}-3-morpholin-4-yl-5-trifluoromethyl-benzamide
To a solution of N3-[1-(6-amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-4-methyl-benzene-1,3-diamine (10.0 mg, 0.030 mmol), 3-morpholin-4-yl-5-trifluoromethyl-benzoic acid (10 mg, 0.036 mmol), and DIEA (21 μL, 0.12 mmol) in DMF (2 mL) is added HATU (13 mg, 0.033 m mol). After stirring for 1 hour at room temperature, the solvent is removed under vacuum. The residue is dissolved in DMSO (1 mL). The resulting solution is subjected to purification by reverse-phase LC-MS to yield the title compound.

reactant | N3-[1-(6-amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-4-methyl-benzene-1,3-diamine | 0.030 mmol, 10.0 mg | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC=2C=C(C=CC2C)N | C18H17N7
reactant | 3-morpholin-4-yl-5-trifluoromethyl-benzoic acid | 0.036 mmol, 10 mg | N1(CCOCC1)C=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H12F3NO3
reactant | DIEA | 0.12 mmol, 21 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 13 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-{3-[1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-ylamino]-4-methyl-phenyl}-3-morpholin-4-yl-5-trifluoromethyl-benzamide | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC=2C=C(C=CC2C)NC(C2=CC(=CC(=C2)C(F)(F)F)N2CCOCC2)=O | C30H27F3N8O2
